US05932598
A mixture of 4-[2-(5-methylpyridin-3-yl)-4-(trifluoromethyl)-1H-imidazol-1-yl]benzenesulfonamide (0.5 g, 1.3 mmol), acetic anhydride (0.40 g, 3.9 mmol), DMAP (0.09 g, 0.7 mmol) and triethylamine (0.16 g, 1.6 mmol) was stirred at room temperature for 16 hours. The reaction mixture was diluted with 50 mL of water and extracted with ethyl acetate. The organic layer was washed with water, brine, dried over magnesium sulfate and filtered. The filtrate was concentrated under vacuum and the residue was recrystallized from ethyl acetate and hexane to afford 0.4 g (72%) of N-[[4-[2-(5-methylpyridin-3-yl)-4-(trifluoromethyl)-1H-imidazol-1-yl]phenyl]sulfonyl]acetamide as a colorless solid: mp (DSC) 268-270° C. Anal. Calc'd. for C18H15F3N4O3S: C, 50.94; H, 3.56; N, 13.20; S, 7.56. Found: C, 50.68; H, 3.47; N, 12.53; S, 7.43.

reactant | 4-[2-(5-methylpyridin-3-yl)-4-(trifluoromethyl)-1H-imidazol-1-yl]benzenesulfonamide | 1.3 mmol, 0.5 g | CC=1C=C(C=NC1)C=1N(C=C(N1)C(F)(F)F)C1=CC=C(C=C1)S(=O)(=O)N | C16H13F3N4O2S
reactant | acetic anhydride | 3.9 mmol, 0.40 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.6 mmol, 0.16 g | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.7 mmol, 0.09 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 50 mL | O | H2O
product | N-[[4-[2-(5-methylpyridin-3-yl)-4-(trifluoromethyl)-1H-imidazol-1-yl]phenyl]sulfonyl]acetamide | 0.4 g, 72% | CC=1C=C(C=NC1)C=1N(C=C(N1)C(F)(F)F)C1=CC=C(C=C1)S(=O)(=O)NC(C)=O | C18H15F3N4O3S
